US04168385
Methyl 2-(p-chlorophenoxy)-2-[p-(p-chlorophenoxy)phenyl]propionate
A solution of 2.02 g of N,N-diisopropylamine and 5 mg of 1,10-phenanthroline in 15 ml of dry tetrahydrofuran is cooled to 0° C. under argon and a solution of 0.017 mole of n-butyllithium in hexane is added dropwise while keeping the temperature of 0°-5° C. After 15 minutes, the solution is cooled to -70° C. and a solution of 6.05 g of methyl(p-chlorophenoxy)[p-(p-chlorophenoxy)phenyl]acetate in 10 ml of tetrahydrofuran is added over 15 minutes while keeping the temperature at -70° C. to -65° C. After 15 minutes 3.58 g of hexamethylphosphoramide is added. After 1/2 hour, 4.26 g of methyl iodide is added in one portion. The color lightens slowly over one hour. The mixture is allowed to warm to room temperature and the reaction mixture is stirred overnight. The mixture is poured into 100 ml of water and extracted with two 75 ml portions of ether. The extracts are washed with four 50 ml portions of 10% HCl, water, saturated NaHCO3, saturated brine and dried (MgSO4). Evaporation of the solvent yields a brown oil, which is filtered through 30 g of silica gel (benzene eluent) to yield the product as a light yellow oil, which solidifies on standing.

reactant | N,N-diisopropylamine | 2.02 g | C(C)(C)NC(C)C | C6H15N
reactant | 1,10-phenanthroline | 5 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | n-butyllithium | 0.017 mole | C(CCC)[Li]
reactant | methyl(p-chlorophenoxy)[p-(p-chlorophenoxy)phenyl]acetate | 6.05 g | COC(C(C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl)OC1=CC=C(C=C1)Cl)=O | C21H16Cl2O4
reactant | methyl iodide | 4.26 g | CI | CH3I
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
solvent | hexamethylphosphoramide | 3.58 g | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | Methyl 2-(p-chlorophenoxy)-2-[p-(p-chlorophenoxy)phenyl]propionate | ClC1=CC=C(OC(C(=O)OC)(C)C2=CC=C(C=C2)OC2=CC=C(C=C2)Cl)C=C1 | C22H18Cl2O4
